// LVDS Output Driver — 180nm CMOS
// H-bridge current-steering topology
//
// Architecture:
//   - PMOS/NMOS current mirrors (20:1 ratio, 175uA ref → 3.5mA output)
//   - 4-transistor H-bridge steers current through differential load
//   - Series enable transistors for tri-state control
//   - On-chip inverters for complementary signal generation
//
// LVDS spec targets:
//   - Differential swing: 350mV across 100 Ohm termination
//   - Common-mode voltage: ~1.2V (no CMFB in this version)
//   - Nominal current: 3.5mA
//
// References:
//   - TIA/EIA-644 LVDS standard
//   - "Design of a Low-Power CMOS LVDS I/O Interface Circuit"
//     (Semantic Scholar, B317/a994)
//   - "High Speed LVDS Driver for SERDES" (Gupta et al., MIT)

simulator lang=spectre

subckt lvds_driver (outp outn vdd vss din en)
parameters iref=175u lmin=180n

    // ================================================================
    // Complementary signal generation
    // ================================================================

    // Data inverter: din -> din_b
    mp_dinv (din_b din vdd vdd) pmos w=2u l=lmin
    mn_dinv (din_b din vss vss) nmos w=1u l=lmin

    // Enable inverter: en -> en_b
    mp_einv (en_b en vdd vdd) pmos w=2u l=lmin
    mn_einv (en_b en vss vss) nmos w=1u l=lmin

    // ================================================================
    // Bias generation (ideal current source + diode-connected mirror)
    // ================================================================

    // PMOS reference: 175uA into diode-connected PMOS sets Vgs
    i_pref (vdd pbias) isource dc=iref
    mp_bref (pbias pbias vdd vdd) pmos w=3u l=lmin

    // NMOS reference: 175uA through diode-connected NMOS sets Vgs
    i_nref (nbias vss) isource dc=iref
    mn_bref (nbias nbias vss vss) nmos w=1.5u l=lmin

    // ================================================================
    // Current source and sink (20:1 mirror ratio -> 3.5mA)
    // ================================================================

    // PMOS current source
    mp_cs (cs_p pbias vdd vdd) pmos w=60u l=lmin

    // Series PMOS enable: conducts when en=HIGH (en_b=LOW)
    mp_en (tail_p en_b cs_p vdd) pmos w=60u l=lmin

    // NMOS current sink
    mn_cs (cs_n nbias vss vss) nmos w=30u l=lmin

    // Series NMOS enable: conducts when en=HIGH
    mn_en (tail_n en cs_n vss) nmos w=30u l=lmin

    // ================================================================
    // H-bridge output steering switches
    // ================================================================
    //
    // din=HIGH (din_b=LOW):
    //   Mp_a ON, Mn_b ON
    //   current path: tail_p -> outp -> [load] -> outn -> tail_n
    //
    // din=LOW (din_b=HIGH):
    //   Mp_b ON, Mn_a ON
    //   current path: tail_p -> outn -> [load] -> outp -> tail_n

    mp_a (outp din_b tail_p vdd) pmos w=24u l=lmin
    mp_b (outn din   tail_p vdd) pmos w=24u l=lmin
    mn_a (outp din_b tail_n vss) nmos w=12u l=lmin
    mn_b (outn din   tail_n vss) nmos w=12u l=lmin

ends lvds_driver
